### PR TITLE
feat(Algebra/WeaklyEtale): converse of `ker_pure_of_flat_surjective`

### PR DESCRIPTION
**Pull request by chrisflav**
## Summary

Adds the converse direction of the existing `RingHom.ker_pure_of_flat_surjective`:

- `RingHom.Flat.of_ker_pure_of_surjective`: a surjective ring map whose kernel is a pure ideal is flat.
- `RingHom.flat_iff_ker_pure_of_surjective`: the iff form combining both directions.
- `Algebra.flat_lmul'_iff_kaehlerDifferential_ideal_pure`: specialisation to the multiplication map `lmul' : S ⊗[R] S → S`, whose kernel is `KaehlerDifferential.ideal R S`.

The proof of the converse is a direct transport of flatness along the algebra isomorphism `A ⧸ ker f ≃ₐ[A] B` provided by `Ideal.quotientKerAlgEquivOfSurjective`, mirroring the forward direction.

These lemmas are extracted from `Proetale/Mathlib/RingTheory/WeaklyEtale/Subalgebra.lean` on the `archon` branch, where they are used (as `flat_lmul'_of_pure_ker`) to derive flatness of `lmul'` from purity of `KaehlerDifferential.ideal`, the bridge that converts the idempotency input of Stacks [092K] into the `WeaklyEtale` conclusion.

## Test plan

- [x] `lake build` succeeds (validation script passes)
- [x] No `sorry` introduced
- [x] All new lemmas have docstrings

### CODE REVIEW

File: Proetale/Mathlib/RingTheory/Ideal/Pure.lean [hunk 1]
```diff
@@ -0,0 +1,39 @@
...
+
+/-!
+# Flat surjective ring maps and pure kernels
+
+For a surjective ring map `f : A →+* B`, flatness of `f` is equivalent to the kernel of `f`
+being a pure ideal in `A`.
+-/
+
+/-- The kernel of a flat surjective ring map is a pure ideal. -/
+lemma RingHom.ker_pure_of_flat_surjective {A B : Type*} [CommRing A] [CommRing B]
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/Ideal/Pure.lean]:
```suggestion
lemma RingHom.pure_ker_of_flat_of_surjective {A B : Type*} [CommRing A] [CommRing B]
```

File: Proetale/Mathlib/RingTheory/Ideal/Pure.lean [hunk 2]
```diff
@@ -0,0 +1,39 @@
...
+    (f : A →+* B) (hf : f.Flat) (hsurj : Function.Surjective f) :
+    (RingHom.ker f).Pure := by
+  algebraize [f]
+  exact .of_linearEquiv (Ideal.quotientKerAlgEquivOfSurjective
+    (f := Algebra.ofId A B) hsurj).toLinearEquiv
+
+/-- A surjective ring map whose kernel is a pure ideal is flat. This is the converse of
+`RingHom.ker_pure_of_flat_surjective`. -/
+lemma RingHom.Flat.of_ker_pure_of_surjective {A B : Type*} [CommRing A] [CommRing B]
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/Ideal/Pure.lean]:
```suggestion
lemma RingHom.Flat.of_pure_ker_of_surjective {A B : Type*} [CommRing A] [CommRing B]
```

File: Proetale/Mathlib/RingTheory/Ideal/Pure.lean [hunk 3]
```diff
@@ -0,0 +1,39 @@
...
+    {f : A →+* B} (hsurj : Function.Surjective f) (h : (RingHom.ker f).Pure) :
+    f.Flat := by
+  algebraize [f]
+  haveI : Module.Flat A (A ⧸ RingHom.ker (Algebra.ofId A B)) := h
+  exact .of_linearEquiv (Ideal.quotientKerAlgEquivOfSurjective
+    (f := Algebra.ofId A B) hsurj).symm.toLinearEquiv
+
+/-- For a surjective ring map, flatness is equivalent to the kernel being a pure ideal. -/
+lemma RingHom.flat_iff_ker_pure_of_surjective {A B : Type*} [CommRing A] [CommRing B]
```
Comment (chrisflav) [inline Proetale/Mathlib/RingTheory/Ideal/Pure.lean]:
```suggestion
lemma RingHom.flat_iff_pure_ker_of_surjective {A B : Type*} [CommRing A] [CommRing B]
```

**Comment by chrisflav** [comment]
orchestra address review
